US07491716B2
Furo[3,2-c]pyridine-7-carbonitrile
Combine 7-bromofuro[3,2-c]pyridine (4.673 g, 23.5 mmol), copper cyanide (4.21 g, 47.1 mmol), copper iodide (8.96 g, 47.1 mmol), and anhydrous dimethylformamide (100 mL) and at 130° C. for 30 hours. Cool to room temperature, dilute with diethyl ether and wash with 15% aqueous ammonium hydroxide. Extract combined aqueous layers with diethyl ether, wash combined organic layers with 15% aqueous ammonium hydroxide, and brine, dry over magnesium sulfate, and concentrate. Purification using flash chromatography, eluting with hexane: ethyl acetate gives the tide compound as a white solid.

reactant | 7-bromofuro[3,2-c]pyridine | 23.5 mmol, 4.673 g | BrC=1C2=C(C=NC1)C=CO2 | C7H4BrNO
reactant | copper cyanide | 47.1 mmol, 4.21 g | [Cu](C#N)C#N
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | copper iodide | 47.1 mmol, 8.96 g | [Cu](I)I
product | Furo[3,2-c]pyridine-7-carbonitrile | O1C=CC=2C=NC=C(C21)C#N | C8H4N2O
